US07897607B2
5-(2,4-Dimethylphenyl)-3-methyl-2-propylaminopyrimidin-4(3H)-one
To a sealed tube was added 0.15 g (0.57 mmol) of 5-(2,4-dimethyl-phenyl)-3-methyl-2-(methylthio)pyrimidin-4(3H)-one and 3 ml (50 mmol) of propyl amine. The mixture was heated to 100° C. for 48 h. The reaction was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 50% ethyl acetate/hexanes gave 0.1 g (67%) of product.

reactant | 5-(2,4-dimethyl-phenyl)-3-methyl-2-(methylthio)pyrimidin-4(3H)-one | 0.57 mmol, 0.15 g | CC1=C(C=CC(=C1)C)C=1C(N(C(=NC1)SC)C)=O | C14H16N2OS
reactant | propyl amine | 50 mmol, 3 ml | C(CC)N | C3H9N
product | 5-(2,4-Dimethylphenyl)-3-methyl-2-propylaminopyrimidin-4(3H)-one | 0.1 g, 67% | CC1=C(C=CC(=C1)C)C=1C(N(C(=NC1)NCCC)C)=O | C16H21N3O
